US07842685B2
2-(4-(1,3-Dioxan-2-yl)-2-fluorophenyl)-5-(1-(3,3-difluorocyclopentyl)-cyclopropyl)thiazolo[5,4-b]pyridine was treated with 5 mL THF and 5N HCl was sealed and heated to 70° C. for 1 h. The reaction mixture was cooled, quenched with ice and 10 N NaOH until basic, and diluted with water and DCM. The aq. Layer was extracted with DCM, and the combined organics were dried over sodium sulfate, filtered, and concentrated in vacuo to give a brown oil. The oil was adsorbed onto 5 g silica gel and dried, purified by silica gel chromatography, 0-40% EA/hexanes, to give (rac)-4-(5-(1-(3,3-difluorocyclopentyl)-cyclopropyl)thiazolo[5,4-b]pyridine-2-yl)-3-fluorobenzaldehyde as a solid. MS (ESI) m/z: Calculated: 402.1; Observed: 403.0 (M++1).

reactant | 2-(4-(1,3-Dioxan-2-yl)-2-fluorophenyl)-5-(1-(3,3-difluorocyclopentyl)-cyclopropyl)thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1CC(CC1)(F)F)F | C24H23F3N2O2S
reactant | HCl | 5N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (rac)-4-(5-(1-(3,3-difluorocyclopentyl)-cyclopropyl)thiazolo[5,4-b]pyridine-2-yl)-3-fluorobenzaldehyde | FC1(CC(CC1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C2=C(C=C(C=O)C=C2)F)F | C21H17F3N2OS
